US04140858
e. 2-n-butyl-1,2,3,4-tetrahydropyrrolo[3,4-b]indole.
2-n-Butyl-1,4-dihydropyrrolo[3,4-b]indol-3(2H)-one, 20 g., in dry tetrahydrofuran, 400 ml., is added slowly to a slurry of LiAl H4, 14 g., in tetrahydrofuran, 250 ml. After refluxing twenty hours, the reaction mixture is hydrolyzed with 30 ml. of water, and filtered. After the solvent is removed, one obtains 20.1 g. of a reddish-brown solid. Recrystallization from methanol, 200 ml., gives 11 g. of the title compound, m.p. 151°-2°.

reactant | 2-n-Butyl-1,4-dihydropyrrolo[3,4-b]indol-3(2H)-one | C(CCC)N1C(C=2NC=3C=CC=CC3C2C1)=O | C14H16N2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-n-butyl-1,2,3,4-tetrahydropyrrolo[3,4-b]indole | C(CCC)N1CC=2NC=3C=CC=CC3C2C1 | C14H18N2
